US08633200B2
A 100 mL RB-flask was charged with 6-bromo-7-chloro-2-(3-chlorophenyl)-5-methylpyrazolo[1,5-a]pyrimidine (0.918 g, 2.57 mmol) and copper(I) bromide (0.092 g, 0.643 mmol) was added anhydrous THF (30 mL). To the resulting mixture was added 1M iPrMgCl—LiCl/THF (3.34 ml, 3.34 mmol) over 5 min. After 1 h, methyl 2-chloro-2-oxoacetate (0.501 ml, 5.45 mmol) was added at once to the dark reaction mixture and stirred for additional 1 h. Then, the resulting homogeneous orange brown reaction mixture was quenched with sat NaHCO3 (1 mL), diluted with Et2O (75 mL), washed with water (2×25 mL), brine (25 mL), dried (Na2SO4/C), filtered and concentrated to give yellow residue. This residue was purified on silica gel column using 5-30% EtOAc/Hex (5% increment per 500 mL) to give methyl 2-(2-(3-chlorophenyl)-7-isopropyl-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)-2-oxoacetate (0.1402 g, 0.377 mmol, 14.67% yield) as yellow solid; 1H NMR (500 MHz, CDCl3) δ: 8.01-7.98 (m, 1H), 7.87 (dt, J=7.0, 1.7 Hz, 1H), 7.43-7.38 (m, 2H), 6.87 (s, 1H), 3.98 (s, 3H), 3.43-3.34 (m, 1H), 2.47 (s, 3H), 1.62 (d, J=7.0 Hz, 6H). LCMS (M+H) calcd for C17H16N3O2: 372.11. found: 372.2.

reactant | 6-bromo-7-chloro-2-(3-chlorophenyl)-5-methylpyrazolo[1,5-a]pyrimidine | 2.57 mmol, 0.918 g | BrC=1C(=NC=2N(C1Cl)N=C(C2)C2=CC(=CC=C2)Cl)C | C13H8BrCl2N3
reactant | iPrMgCl LiCl THF | 3.34 mmol, 1M, 3.34 ml | C(C)(C)[Mg]Cl.[Li+].[Cl-].C1CCOC1
reactant | methyl 2-chloro-2-oxoacetate | 5.45 mmol, 0.501 ml | ClC(C(=O)OC)=O | C3H3ClO3
catalyst | copper(I) bromide | 0.643 mmol, 0.092 g | [Cu]Br
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | methyl 2-(2-(3-chlorophenyl)-7-isopropyl-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)-2-oxoacetate | 0.377 mmol, 0.1402 g, 14.67% yield | ClC=1C=C(C=CC1)C1=NN2C(N=C(C(=C2C(C)C)C(C(=O)OC)=O)C)=C1 | C19H18ClN3O3
